US07625926B2
Step 1: Preparation of 3-quinolin-3-yl-acrylic acid
80 g of 3-quinoline carboxaldehyde, 85 g of malonic acid and 6.50 g of piperidine were added to 350 ml of pyridine, and stirred at 100° C. for 3 hours. After mixing with 1000 ml of distilled water, concentrated HCl was added thereto until pH of the solution became 4.8, and stirred for 1 hour. The resulting solid was filtrated under a reduced pressure, washed with 1500 ml of distilled water, and dried for 15 to 40 hours to obtain 96 g of the title compound as a white solid (yield 95%).

reactant | 3-quinoline carboxaldehyde | 80 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | malonic acid | 85 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 6.50 g | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | water | 1000 ml | O | H2O
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 3-quinolin-3-yl-acrylic acid | 96 g, yield 95% | N1=CC(=CC2=CC=CC=C12)C=CC(=O)O | C12H9NO2
